US08980877B2
(±)-(E)-3-[1′-Methyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid methyl ester (370 mg, 1.12 mmol) was hydrolyzed with HCl and AcOH according to the procedure for preparation of Example 23, Step B, giving (±)-(E)-3-[1′-methyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid (334 mg) as a white solid (hydrochloride salt).

reactant | (±)-(E)-3-[1′-Methyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid methyl ester | 1.12 mmol, 370 mg | COC(\C=C\C=1C=C2C(CC3(CCN(CCC3)C)OC2=CC1)=O)=O | C19H23NO4
reactant | HCl | Cl | ClH
solvent | AcOH | CC(=O)O | C2H4O2
product | (±)-(E)-3-[1′-methyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid | 334 mg | CN1CCC2(CCC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C18H21NO4
